US08017611B2
1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (998 mg, 2.79 mmol) was added to a stirred suspension 2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-ol (577 mg) and potassium carbonate (1053 mg) dissolved in dichloromethane (20 ml). The resulting suspension was stirred at 25° C. for 2 hours. The mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 20 to 40% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford [2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-yl]trifluoromethanesulfonate (559 mg) as a solid. NMR Spectrum: (DMSOd6): 6.81 (dd, 1H), 6.56-6.63 (m, 2H), 7.71 (bs, 2H), 7.96 (dd, 1H), 8.29 (dd, 1H), 8.31 (d, 1H); Mass spectrum: M+H+ 360

reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 2.79 mmol, 998 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | 2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-ol | 577 mg | NC1=NC=CC=C1C=1OC=2C(N1)=C(C=CC2)O | C12H9N3O2
reactant | potassium carbonate | 1053 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | [2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-yl]trifluoromethanesulfonate | 559 mg | NC1=NC=CC=C1C=1OC2=C(N1)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C13H8F3N3O4S
